US07381726B2
Production of Form XIII of 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine dihydrochloride
3 g of 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine is dissolved in 100 ml of tetrahydrofuran and 10 ml of 2N or concentrated hydrochloric acid. After stirring for 2 to 3 minutes suction filtration of the precipitated crystals is effected. Drying in vacuo at room temperature to constant weight leads to 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine dihydrochloride of Form XII which present the characteristic x-ray diffraction spectrum of FIG. 25.

reactant | 1-[4-(5-cyanoindol-3-yl)butyl]-4-(2-carbamoyl-benzofuran-5-yl)-piperazine | 3 g | C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(N)=O)C1 | C26H27N5O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[4-(5-cyanoindol-3-yl)butyl]4-(2-carbamoyl-benzofuran-5-yl)-piperazine dihydrochloride | Cl.Cl.C(#N)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C=1C=CC2=C(C=C(O2)C(N)=O)C1 | InChI=1S/C26H27N5O2.2ClH/c27-16-18-4-6-23-22(13-18)19(17-29-23)3-1-2-8-30-9-11-31(12-10-30)21-5-7-24-20(14-21)15-25(33-24)26(28)32;;/h4-7,13-15,17,29H,1-3,8-12H2,(H2,28,32);2*1H
